Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamides)
 
Attending: ___.
 
Chief Complaint:
Bug Bite and rash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: Mr. ___ is a pleasant ___ male, previously in good 
health, until four days ago when he sustained a bug bite in his 
right medial thigh. He did see the bug, but could not identify 
it. He saw a puncture wound. A black/purple color developed 
around the puncture wound, which gave way to an erythematous, 
circular rash with a slight central clearing. The patient saw 
his PCP on ___ but was not given any medication. The patient 
saw Dr. ___ and was started on a ten day course of 
doxycycline. The rash was marked and the erythema has now 
traveled outside of the original marking. Last night the patient 
developed a fever to 103.1. Yesterday morning the patient felt a 
cramping in his left lateral rib cage, which resolved with, out 
any intervention. The patient noticed palpitations during 
thisepisode but did not have any diapheresis. In the ED, EKG 
showed lateral EKG changes including TWI in V4 and V5 but no ST 
changes, and the patient had a troponin of 0.5. In the ED, the 
patient received vanc ASA, Zofran, and morphine before noon. The 
patient has not had any recurrent chest discomfort. 
 
Past Medical History:
bipolar disorder
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Vitals: HR 81 BP 93/49 R 12 98% RA  
General: Thin male, WDWN, NAD  
Head: NCAT  
Mouth: mucous membranes moist, no oral lesions identified.  
Neck: No cervical nor supraclavicular lymphadenopathy  
Cardio: RRR, no MRG, no JVD  
Pulm: CTAB  
Abdomen: Soft, NT, ND, normal BS  
Groin: erythematous rash in right groin. sub-centimeter lymph 
nodes in right groin.  
Ext: no c/c/e.  
Skin: Entire body surface area examined. Right medial thigh with 
12cm round, non tender, erythematous rash with central clearing. 
Right posterior thigh with smaller 4cm rash. Left medial thigh 
with 6cm rash, similar in character.  

 
Pertinent Results:
ADMISSIONS LAB

___ 08:54AM BLOOD WBC-9.8# RBC-4.66 Hgb-14.2 Hct-40.8 
MCV-88 MCH-30.5 MCHC-34.8 RDW-13.2 Plt ___
___ 08:54AM BLOOD Neuts-81.9* Lymphs-13.3* Monos-3.6 
Eos-0.7 Baso-0.5
___ 08:54AM BLOOD ___ PTT-29.3 ___
___ 08:54AM BLOOD Glucose-126* UreaN-10 Creat-0.9 Na-135 
K-4.3 Cl-100 HCO3-27 AnGap-___ssessment: Mr. ___ is a ___ male, previously in good 
health, until four days ago when he sustained a bug bite in his 
right medial thigh and now has three similar erythematous round 
rashes. The rash is consistent with erythema migrans of Lyme 
disease. Less likely are cellulitis (rash is non-tender), 
erythema multiforme (no mucosal involvement) or babesiosis.  
Plan:  
#Lateral rib cage pain: The patient was ruled out for MI based 
on EKG and cardiac enzymes.  His troponin was initially 0.5ng/mL 
but trended downward to 0.2ng/ml within 12 hours. His CK-MB was 
within normal limits. His EKG showed TWI in V4 and V5 but no ST 
changes. In the context of the patient's classic rash and 
history, It was thought that these changes represented a 
myocarditis secondary to lyme disease (see below).  The lateral 
rib cage pain resolved within 24 hours of admission. 
.
# Erythema Chronicum Migrans: Secondary to Lyme disease.  The 
patient was treated with doxycycline 100mg BID for ten days 
(start ___. The patient's Borrelia burgdorferi IgM was 
positive and IgG was negative, consistent with Lyme disease. 
#PPX: The patient recieved subcutaneous heparin for DVT 
prophylaxis  

 
Medications on Admission:
Lamictal  
Fexofenedene 

 
Discharge Medications:
1. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours) for 19 days.
Disp:*38 Capsule(s)* Refills:*0*
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for prn pain.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Erythema Chronicum Migrans due to Lyme disease
2. history of bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted here due to a rash on your 
right leg, which developed after a bug bite.  Your rash, 
headaches, muscle pain, and heart symptoms and lab tests make us 
highly suspicious that you have Lyme Disease, a common condition 
in the ___.  Lyme disease results in a rash called 
erythema chronicum migrans, which is most likely what you have.  
Your condition is improving with doxycycline, a medication that 
treats Lyme Disease, and you will take this medication for 19 
more days.  Doxycycline can cause your eyes to be sensitive to 
sunlight.
 
Followup Instructions:
___